US06894061B2
2-Bromo-5-[(3-fluoro-4-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine
The title compound was prepared from 5-[(3-fluoro-4-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine (1.15 g, 3.0 mmol), bromine (0.61 mL, 12.0 mmol), and acetic acid (30 mL) according to the procedure and in the same manner as described in Example 4, step a. The crude product was purified by re-crystallization from ethyl acetate to yield 2-bromo-5-[(3-fluoro-4-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine (1.03 g, 2.22 mmol, 74%);

reactant | 5-[(3-fluoro-4-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine | 3.0 mmol, 1.15 g | FC=1C=C(C=CC1OC)S(=O)(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C | C21H18FNO3S
reactant | bromine | 12.0 mmol, 0.61 mL | BrBr | Br2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 2-bromo-5-[(3-fluoro-4-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine | 2.22 mmol, 1.03 g, 74% | BrC1=CC=2C3=CC=CC=C3C(N(C2C=C1)S(=O)(=O)C1=CC(=C(C=C1)OC)F)C | C21H17BrFNO3S
